US04477629
COMPARATIVE EXPERIMENT A--Preparation of Bisphenol A Dicyanate
Cyanogen bromide (2.10 moles, 222.45 grams) was added to a reactor containing stirred acetone (350 milliliters) under a nitrogen atmosphere. The cyanogen bromide-acetone solution was cooled to -15° C. then Bisphenol A (1.00 mole, 228.30 grams) dissolved in chilled acetone (700 milliliters) was added to the reactor. The stirred solution was allowed to equilibrate at -5° C. then triethylamine (2.01 moles, 203.39 grams) was added to the reactor over a 125 minute (7500 s) period and so as to maintain the reaction temperature at -5° C. After completion of the triethylamine addition, the reactor was maintained at -5° C. for 30 minutes (1800 s), followed by addition of the reaction product to chilled water (650 milliliters) with agitation. After 15 minutes (900 s), the water and product mixture was multiply extracted with methylene chloride. The combined methylene chloride extracts were sequentially washed with dilute hydrochloric acid (5 percent), water, dilute hydrochloric acid, water and then dried over anhydrous magnesium sulfate. The dry methylene chloride extract was filtered and solvent removed by rotary evaporation under vacuum. Bisphenol A dicyanate was recovered in 91.6 percent yield (255.0 grams) as a white crystalline solid. Infrared spectrophotometric analysis confirmed the product structure for the dicyanate of Bisphenol A.

reactant | Cyanogen bromide | 2.10 moles, 222.45 grams | N#CBr | CBrN
reactant | cyanogen bromide acetone | N#CBr.CC(=O)C
reactant | Bisphenol A | 1.00 mole, 228.30 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | triethylamine | 2.01 moles, 203.39 grams | C(C)N(CC)CC | C6H15N
solvent | acetone | 700 milliliters | CC(=O)C | C3H6O
solvent | acetone | 350 milliliters | CC(=O)C | C3H6O
solvent | water | 650 milliliters | O | H2O
product | Bisphenol A Dicyanate | 91.6 percent yield | [O-]C#N.[O-]C#N.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2CHNO/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*2-1-3/h3-10,16-17H,1-2H3;2*3H/p-2
